US04866196
A mixture of 4.64 g of (±)-4-(2-amino-1-methylethyl)phenol hydrobromide, 100 ml of ethyl acetate, 6.92 g of potassium carbonate, 40 ml of water and 3.75 g of benzyloxycarbonyl chloride is stirred at room temperature overnight. After the reaction, the ethyl acetate layer is separated therefrom, washed, dried, and then evaporated under reduced pressure to remove the solvent. 4.82 g of (±)-4-(2-benzyloxycarbonylamino-1-methylethyl)phenol are obtained as pale yellow oil.

reactant | (±)-4-(2-amino-1-methylethyl)phenol hydrobromide | 4.64 g | Br.NCC(C)C1=CC=C(C=C1)O
reactant | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
reactant | potassium carbonate | 6.92 g | C([O-])([O-])=O.[K+].[K+]
reactant | benzyloxycarbonyl chloride | 3.75 g | C(C1=CC=CC=C1)OC(=O)Cl | C8H7ClO2
solvent | water | 40 ml | O | H2O
product | (±)-4-(2-benzyloxycarbonylamino-1-methylethyl)phenol | 4.82 g | C(C1=CC=CC=C1)OC(=O)NCC(C)C1=CC=C(C=C1)O | C17H19NO3
